US08629168B2
b) 4-[4-(2-Methoxy-ethyl)-piperazin-1-yl]-3-methyl-phenylamine
A solution of 0.85 g (3.04 mmol) 1-(2-methoxy-ethyl)-4-(2-methyl-4-nitro-phenyl)-piperazine in 20 ml MeOH:THF=1:1 is hydrogenated in the presence of 0.2 g 10% Pd/C (Engelhard 4505). The reaction mixture is filtered (2 glass fiber filters used) and the filtrate is concentrated in vacuo to afford the title compound as an oil.

reactant | 1-(2-methoxy-ethyl)-4-(2-methyl-4-nitro-phenyl)-piperazine | 3.04 mmol, 0.85 g | COCCN1CCN(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])C | C14H21N3O3
reactant | THF | C1CCOC1 | C4H8O
solvent | MeOH | 20 ml | CO | CH4O
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | 4-[4-(2-Methoxy-ethyl)-piperazin-1-yl]-3-methyl-phenylamine | COCCN1CCN(CC1)C1=C(C=C(C=C1)N)C | C14H23N3O
